US04551460
A solution of 25.3 g of 6-(5-pyrimidinyl)-5-hexyn-1-ol in 300 ml of isopropanol was hydrogenated over a total of 2.1 g of 10% palladium on carbon added in two portions. The residue was distilled to yield 22.8 g (88%) of 5-pyrimidinehexanol, bp 185°-196° C./0.35 mm.

reactant | 6-(5-pyrimidinyl)-5-hexyn-1-ol | 25.3 g | N1=CN=CC(=C1)C#CCCCCO | C10H12N2O
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
catalyst | palladium on carbon | 2.1 g | [Pd] | Pd
product | 5-pyrimidinehexanol | 22.8 g, 88% | N1=CN=CC(=C1)CCCCCCO | C10H16N2O
